2130-02-05 07:39:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   confusion
   24 Hour Events:
   - extubated
   - delirious, aggitated post extubation.  Aggitation responded to 2.5mg
   IV  haldol.  Remained confused but not aggitated
   - spoke to neighbor : pt was not caring for self (left stove on), and
   was hallucinating.  very poor po intake
   - emailed Dr. [**Last Name (STitle) **], her radiation [**Last Name (STitle) 3952**]
   - spoke to her pharmacist; updated home med list on team census
   - D-dimer 2361
   - Lenis: No DVT
   - repeat [**Last Name (STitle) **]/CR improved...continued IVFs but switched to D51/2NS @
   125/hr
   - Her lawyer is her HCP: [**Name (NI) **] [**Name (NI) 911**], phone number in team census
   - advanced diet to clears
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-2-4**] 11:15 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2130-2-4**] 08:52 AM
   Haloperidol (Haldol) - [**2130-2-4**] 01:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-5**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 82 (78 - 95) bpm
   BP: 169/96(110) {112/59(72) - 169/96(110)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,974 mL
                                                                    989 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,784 mL
                                                                    989 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                  1,470 mL
   Urine:
                                                                  2,160 mL
                                                                  1,470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,164 mL
                                                                   -481 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,309 (1,309 - 1,309) mL
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.41/39/91//0
   Ve: 10.3 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: , Diminished: bibasilarly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   397 K/uL
   8.1 g/dL
   144 mg/dL
   1.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   26 mg/dL
   102 mEq/L
   142 mEq/L
   23.7 %
   14.3 K/uL
        [image002.jpg]
                             [**2130-2-4**]  06:44 AM
                             [**2130-2-4**]  09:52 AM
                             [**2130-2-4**]  05:39 PM
                             [**2130-2-5**]  05:57 AM
   WBC
   11.0
   14.3
   Hct
   25.2
   23.7
   Plt
   448
   397
   Cr
   1.8
   1.4
   TropT
   0.06
   TCO2
   26
   Glucose
   144
   Other labs: PT / PTT / INR:14.7/76.4/1.3, CK / CKMB /
   Troponin-T:116/7/0.06, ALT / AST:[**8-13**], Alk Phos / T Bili:83/0.3,
   D-dimer:2361 ng/mL, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:236
   IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:4.3 mg/dL
   Micro: blood cx: ngtd
   RPR pending
   Assessment and Plan
   66 yoF with SCC of the lung recently treated w/ chemo/XRT and unknown
   prior PMH, presented with weakness, hypoxia and confusion.
   # HYPOXIA:  now extubated on NC.  Unclear etiology, concern for either
   PNA (increased markings on right) vs PE (unable to do CTA b/c of renal
   function).  Not consistent with CHF.  Received emperic treatment for
   PNA and PE.
   - on levoflox emperically.   WBC did rise but she received solumedrol
   at [**Location (un) **]-[**Location (un) 3958**].  Will d/c levoflox (with her renal fx she is
   covered today anyway)
   - monitor resp status
   - consider Pa/L CXR today given her clinical stability
   - V/Q scan unlikely to be helpful given her high pre-test prob and h/o
   radiation to lung
   - cont heparin ggt for PE empirically
   - Ruled out MI
   #  WEAKNESS: Based on conversation with neighbor who found her, seems
   as though this was global and related to dehydration (reports she was
   not taking good PO, supported by ARF) and AMS
   - exam non-focal
   - IVF for hydration
   # Anemia: Macrocytic.  Unknown baseline.  Reportedly received
   chemotherapy recently.  Drifting down, although did receive IVFs
   - guiac stool
   - transfuse for Hct > 21 or rapidly decreasing rate; no evidence of
   bleeding currently.
   - trend daily
   # CONFUSION: Etiology unknown.  Thought may have been due to hypoxia,
   but she remains confused despite good sats.  Head CT negative for acute
   processes.  Unknown diabetic status but glucose has been normal here.
   LFT's wnl.  Per neighbor, this has been sub-acute course, at least
   since [**1-19**], wtih some hallucinations (visual).   Now more somnolent
   - will try to find out who [**Year (2 digits) 3952**] is; trying to get a hold of PCP
   [**Name Initial (PRE) **] MRI [**Name Initial (PRE) **]/contrast to better assess for mets
   - send TSH
wnl, B12 wnl, RPR -pending
   - check u/a and culture
   - need to speak with PCP, [**Name10 (NameIs) 3952**] about baseline
   # ARF: baseline function unclear, [**Name2 (NI) **]/Cr responding to fluids.  History
   for neighbor indicates poor po intake
   - continue on clears given mental status
   - IVFs
   # NUTRITION: On clears,  IVFs can be hep-locked when taking good PO
   # ACCESS: PIV
   #  PPX: heparin ggt; PPI, bowel regimen
   #  CODE: presumed full; pt is confused and her HCP did not even know
   she had lung cancer
   # COMMUNICATION:
    with neighbors who seem to be next of [**Doctor First Name 23**];
   [**First Name8 (NamePattern2) 189**] [**Last Name (NamePattern1) 2130**] is spokesperson:
   - [**Telephone/Fax (1) 3953**] OR [**Telephone/Fax (1) 3954**].
   HCP is her lawyer, [**Name (NI) **] [**Name (NI) 911**]:
   - [**Telephone/Fax (1) 3936**] OR [**Telephone/Fax (1) 3955**] OR  (cell): [**Telephone/Fax (1) 3956**]
   #  DISPO: ICU given mental status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-2-4**] 04:37 AM
   18 Gauge - [**2130-2-4**] 04:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2130-02-06 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- MRI brain performed, not yet read
   -- guaiac negative (hct had dropped 40-->30)
   -- started NAC for pre CT-A renal ppx (pt not taking...), meanwhile
   remains on heparin gtt
   -- mental status slowly improved but still not all there
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-2-4**] 11:15 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-6**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 92 (82 - 98) bpm
   BP: 172/86(106) {143/74(89) - 178/102(117)} mmHg
   RR: 13 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,378 mL
                                                                  1,162 mL
   PO:
             TF:
   IVF:
                                                                  3,378 mL
                                                                  1,162 mL
   Blood products:
   Total out:
                                                                  4,385 mL
                                                                    860 mL
   Urine:
                                                                  4,385 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,007 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.50/35/75/26/3
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   376 K/uL
   9.9 g/dL
   126 mg/dL
   1.1 mg/dL
   26 mEq/L
   2.7 mEq/L
   10 mg/dL
   99 mEq/L
   135 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2130-2-4**]  06:44 AM
                             [**2130-2-4**]  09:52 AM
                             [**2130-2-4**]  05:39 PM
                             [**2130-2-5**]  05:57 AM
                             [**2130-2-5**]  01:06 PM
                             [**2130-2-6**]  05:19 AM
   WBC
   11.0
   14.3
   9.3
   Hct
   25.2
   23.7
   29.2
   Plt
   448
   397
   376
   Cr
   1.8
   1.4
   1.3
   1.1
   TropT
   0.06
   TCO2
   26
   28
   Glucose
   144
   129
   126
   Other labs: PT / PTT / INR:13.9/71.1/1.2, CK / CKMB /
   Troponin-T:116/7/0.06, ALT / AST:[**8-13**], Alk Phos / T Bili:83/0.3,
   D-dimer:2361 ng/mL, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:236
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Imaging: [**2130-2-5**] MRI: official read pending
   Microbiology: [**2130-2-4**] Blood culture: NGTD
   [**2130-2-5**] Urine culture: NGTD
   [**2130-2-5**] RPR: negative
   Assessment and Plan
   66 yoF with SCC of the lung recently treated w/ chemo/XRT and unknown
   prior PMH, presented with weakness, hypoxia and confusion.
   # HYPOXIA:  now extubated on NC.  Unclear etiology, concern for either
   PNA (increased markings on right) vs PE (unable to do CTA b/c of renal
   function).  Not consistent with CHF.  Received emperic treatment for
   PNA and PE.
   - on levoflox emperically.   WBC did rise but she received solumedrol
   at [**Location (un) **]-[**Location (un) 3958**].  Will d/c levoflox (with her renal fx she is
   covered today anyway)
   - monitor resp status
   - consider Pa/L CXR today given her clinical stability
   - V/Q scan unlikely to be helpful given her high pre-test prob and h/o
   radiation to lung
   - cont heparin ggt for PE empirically
   - Ruled out MI
   #  WEAKNESS: Based on conversation with neighbor who found her, seems
   as though this was global and related to dehydration (reports she was
   not taking good PO, supported by ARF) and AMS
   - exam non-focal
   - IVF for hydration
   # Anemia: Macrocytic.  Unknown baseline.  Reportedly received
   chemotherapy recently.  Drifting down, although did receive IVFs
   - guiac stool
   - transfuse for Hct > 21 or rapidly decreasing rate; no evidence of
   bleeding currently.
   - trend daily
   # CONFUSION: Etiology unknown.  Thought may have been due to hypoxia,
   but she remains confused despite good sats.  Head CT negative for acute
   processes.  Unknown diabetic status but glucose has been normal here.
   LFT's wnl.  Per neighbor, this has been sub-acute course, at least
   since [**1-19**], wtih some hallucinations (visual).   Now more somnolent
   - will try to find out who [**Year (2 digits) 3952**] is; trying to get a hold of PCP
   [**Name Initial (PRE) **] MRI [**Name Initial (PRE) **]/contrast to better assess for mets
   - send TSH
wnl, B12 wnl, RPR -pending
   - check u/a and culture
   - need to speak with PCP, [**Name10 (NameIs) 3952**] about baseline
   # ARF: baseline function unclear, [**Name2 (NI) **]/Cr responding to fluids.  History
   for neighbor indicates poor po intake
   - continue on clears given mental status
   - IVFs
   # NUTRITION: On clears,  IVFs can be hep-locked when taking good PO
   # ACCESS: PIV
   #  PPX: heparin ggt; PPI, bowel regimen
   #  CODE: presumed full; pt is confused and her HCP did not even know
   she had lung cancer
   # COMMUNICATION:
    with neighbors who seem to be next of [**Doctor First Name 23**];
   [**First Name8 (NamePattern2) 189**] [**Last Name (NamePattern1) 2130**] is spokesperson:
   - [**Telephone/Fax (1) 3953**] OR [**Telephone/Fax (1) 3954**].
   HCP is her lawyer, [**Name (NI) **] [**Name (NI) 911**]:
   - [**Telephone/Fax (1) 3936**] OR [**Telephone/Fax (1) 3955**] OR  (cell): [**Telephone/Fax (1) 3956**]
   #  DISPO: ICU given mental status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-2-4**] 04:37 AM
   18 Gauge - [**2130-2-4**] 04:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2130-02-06 11:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No major events overnight.
   Mental status improved over last 24 hours.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2130-2-4**] 11:15 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Colace, pantoprazole, NAC.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2130-2-6**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 36
C (96.8
   HR: 99 (82 - 99) bpm
   BP: 169/100(115) {156/80(99) - 178/102(117)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,378 mL
                                                                  2,055 mL
   PO:
             TF:
   IVF:
                                                                  3,378 mL
                                                                  2,055 mL
   Blood products:
   Total out:
                                                                  4,385 mL
                                                                  1,380 mL
   Urine:
                                                                  4,385 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,007 mL
                                                                    675 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.50/35/75/26/3
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, alopecia
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: Systolic, Diastolic), distant HS
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : ),
   distant BS
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   376 K/uL
   126 mg/dL
   1.1 mg/dL
   26 mEq/L
   2.7 mEq/L
   10 mg/dL
   99 mEq/L
   135 mEq/L
   29.2 %
   9.3 K/uL
        [image002.jpg]
                             [**2130-2-4**]  06:44 AM
                             [**2130-2-4**]  09:52 AM
                             [**2130-2-4**]  05:39 PM
                             [**2130-2-5**]  05:57 AM
                             [**2130-2-5**]  01:06 PM
                             [**2130-2-6**]  05:19 AM
   WBC
   11.0
   14.3
   9.3
   Hct
   25.2
   23.7
   29.2
   Plt
   448
   397
   376
   Cr
   1.8
   1.4
   1.3
   1.1
   TropT
   0.06
   TCO2
   26
   28
   Glucose
   144
   129
   126
   Other labs: PT / PTT / INR:13.9/71.1/1.2, CK / CKMB /
   Troponin-T:116/7/0.06, ALT / AST:[**8-13**], Alk Phos / T Bili:83/0.3,
   D-dimer:2361 ng/mL, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL, LDH:236
   IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Imaging: MRI Brain:  pending
   Microbiology: BCx:  NGTD
   RPR:  Neg
   UCx:  Neg
   Assessment and Plan
   Altered Mental Status:  Etiology of the AMS not entirely clear.
   Hypercarbia in setting of COPD exacerbation most likely. MRI brain
   pending.
   -F/u MRI
   -If MS declines again, would check ABG.
   Respiratory failure:  Still has a persistent O2 requirement but doing
   well post-extubation.  Given smoking history, exam and CXR appears
   likely to have COPD.
     -Would give bronchodilators
     -Holding on steroids for now, but would have low threshold for this.
     -Now that GFR improved, consider CTA to rule out PE.
   Acute Renal Failure:
     -Creatinine improving.
     -Mucomyst/hydration in anticipation of contrast.
    Anemia:
     -HCT improve without transfusion overnight. Continue to monitor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2130-2-4**] 04:37 AM
   18 Gauge - [**2130-2-4**] 04:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 30 minutes